US06160002
A 50 L reactor was charged with 3-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)-5-ethoxymethylideneamino-4-trifluoromethylsulfinylpyrazole (1.645 g, 3.335 moles) and absolute ethanol (16 L) under nitrogen. The solution was cooled to 10° C., and sodium borohydride (266 g, 7.03 moles) was added slowly such that the temperature remained generally below 35° C. After 6.75 h, some additional sodium borohydride (25 g, 0.66 moles) was added and stirring was continued overnight. Acetic acid (1.3 L, 22.7 moles) was added to quench, followed by 16 L of water. The resulting precipitate was collected by filtration, washed with water, and air-dried. Recrystallization from methanol afforded 3-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)-5-methylamino-4-trifluoromethylsulfinylpyrazole (350 g) as an off-white solid. (m.p. about 227° C.)

reactant | 3-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)-5-ethoxymethylideneamino-4-trifluoromethylsulfinylpyrazole | 3.335 moles, 1.645 g | C(#N)C1=NN(C(=C1S(=O)C(F)(F)F)N=COCC)C1=C(C=C(C=C1Cl)C(F)(F)F)Cl | C15H8Cl2F6N4O2S
reactant | sodium borohydride | 7.03 moles, 266 g | [BH4-].[Na+]
reactant | sodium borohydride | 0.66 moles, 25 g | [BH4-].[Na+]
reactant | Acetic acid | 22.7 moles, 1.3 L | C(C)(=O)O | C2H4O2
solvent | ethanol | 16 L | C(C)O | C2H6O
product | 3-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)-5-methylamino-4-trifluoromethylsulfinylpyrazole | 350 g | C(#N)C1=NN(C(=C1S(=O)C(F)(F)F)NC)C1=C(C=C(C=C1Cl)C(F)(F)F)Cl | C13H6Cl2F6N4OS
